US20010008943A1
Dimethylformamide (50 ml), 1-(4-methoxycarbonylphenyl)-3-(4-pentyloxyphenyl)propane-1,3-dione (10.0 g) and ammonium acetate (9.9 g) were charged in 500-ml three-necked flask at room temperature and heated, and the reaction was carried out at the inner temperature of 90 to 100° C. for 4 hours. After completion of the reaction, the mixture was cooled down to room temperature, water (250 ml) and ethyl acetate (250 ml) were added, the mixture was stirred, and an ethyl acetate layer was separated. The ethyl acetate layer was further washed with water (250 ml) and a saturated saline solution (100 ml). The ethyl acetate layer was concentrated in vacuo to make 50 ml, and n-heptane (250 ml) was added to separate crystals of 1-amino-1-(4-methoxycarbonylphenyl)-3-oxo-3-(4-pentyloxyphenyl)-1-propene. The crystals were filtered at room temperature and washed with a solution (50 ml) consisting of n-heptane and ethyl acetate (5:1). The crystals were dried overnight in vacuo and purified by suspending in a 70% aqueous acetone (100 ml) to give 1-amino-1-(4-methoxycarbonylphenyl)-3-oxo-3-(4-pentyloxyphenyl)-1-propene (6.56 g).

reactant | Dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | 1-(4-methoxycarbonylphenyl)-3-(4-pentyloxyphenyl)propane-1,3-dione | 10.0 g | COC(=O)C1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)OCCCCC)=O | C22H24O5
reactant | ammonium acetate | 9.9 g | C(C)(=O)[O-].[NH4+]
reactant | water | 250 ml | O | H2O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 1-amino-1-(4-methoxycarbonylphenyl)-3-oxo-3-(4-pentyloxyphenyl)-1-propene | 6.56 g | NC(=CC(C1=CC=C(C=C1)OCCCCC)=O)C1=CC=C(C=C1)C(=O)OC | C22H25NO4
